US05578627
To a solution of 4.13 g of 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole in 82 ml of ethyl acetate is added 13.6 ml of a dioxane solution (2.2N) of hydrogen chloride, and the crystals precipitated are collected by filtration to obtain 4.52 g of colorless, crystalline 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 216°-217° C.

reactant | 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 4.13 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C10H11ClN2O3
reactant | dioxane | 2.2N, 13.6 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 82 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | InChI=1S/C10H11ClN2O3.ClH/c11-6-1-2-9-8(3-6)10(13-16-9)15-5-7(12)4-14;/h1-3,7,14H,4-5,12H2;1H
